US05942544
Part A. methyl 3-(3-cyanophenyl)-5-(4-aminophenyl)pentanoate (0.100 gm, 0.325 mmol) was dissolved in dioxane and 0.5 mL of 1 N NaOH was added, followed by benzenesulfonyl chloride. The solution was stirred for 1 hour, quenched in 1 N HCl and extracted with ethyl acetate. The organic layer was washed with water and brine and dried over MgSO4. The solvent was removed under vacuum and the residue was chromatographed on silica gel eluting ethyl acetate:toluene (20:80, v:v) to give methyl beta-[3-(cyano)phenyl]-4-[(phenylsulfonyl)amino]benzenepentanoate as an oil 0.060 gm (41%). MS: (M+NH4)+ 466; 1H NMR (CDCl3): 1.9 (m, 2H), 2.35 (m, 2H), 2.6 (m, 2H), 3.15 (m, 1H), 3.55 (s, 3H), 6.95 (s, 4H), 7.45 (m, 5H), 7.55 (m, 2H), 7.75 (d, 2H).

reactant | methyl 3-(3-cyanophenyl)-5-(4-aminophenyl)pentanoate | 0.325 mmol, 0.100 gm | C(#N)C=1C=C(C=CC1)C(CC(=O)OC)CCC1=CC=C(C=C1)N | C19H20N2O2
reactant | NaOH | 1 N, 0.5 mL | [OH-].[Na+]
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | dioxane | O1CCOCC1 | C4H8O2
product | methyl beta-[3-(cyano)phenyl]-4-[(phenylsulfonyl)amino]benzenepentanoate | 0.060 gm, 41% | C(#N)C=1C=C(C=CC1)C(CC(=O)OC)CCC1=CC=C(C=C1)NS(=O)(=O)C1=CC=CC=C1 | C25H24N2O4S
